US05166198
b) 6-Chloro-9-[4-(diethoxyphosphoryl)butoxy]purine
4-Chloro-6-[[4-(diethoxyphosphoryl)butoxy]amino]-5-formamidopyrimidine (0.470 g, 1.24 mmol) was dissolved in diethoxymethyl acetate (4 ml) and the resulting solution was stirred at 120° C. for 2 hr. The reaction mixture was then allowed to cool and the solution evaporated to dryness. The residue was dissolved in methanol: conc. aq. NH3 solution (9:1, 5 ml) and stirred at 23° C. for 10 min. The solvents were evaporated under vacuum and the product was purified by column chromatography on silica gel (eluted with chloroform: ethanol, 98:2) to yield the title compound (0.360 g, 81%). 1H NMR: δH [(CD3)2SO] 1.34 (6H, t, J=7Hz, (OCH2CH3)2), 1.89 (6H, m, CH2CH2CH2P), 4.12 (4H, m, (OCH2CH3)2), 4.51 (2H, t, J= 6Hz, NOCH2), 8.28 (1H, s), 8.78 (1H, s). m/z (FAB positive ion) 363 (MH+).

reactant | 4-Chloro-6-[[4-(diethoxyphosphoryl)butoxy]amino]-5-formamidopyrimidine | 1.24 mmol, 0.470 g | ClC1=NC=NC(=C1NC=O)NOCCCCP(=O)(OCC)OCC | C13H22ClN4O5P
solvent | diethoxymethyl acetate | 4 ml | C(C)(=O)OC(OCC)OCC | C7H14O4
product | 6-Chloro-9-[4-(diethoxyphosphoryl)butoxy]purine | 0.360 g, 81% | ClC1=C2N=CN(C2=NC=N1)OCCCCP(=O)(OCC)OCC | C13H20ClN4O4P
